US08334235B2
3-[2-(4-Chlorophenyl)ethyl]-5-[(4-methylphenyl)sulphonyl]-1,2,4-thiadiazole
10.90 g (45.1 mmol) of 5-[2-(4-chlorophenyl)ethyl]-1,3,4-oxathiazol-2-one and 8.58 g (47.4 mmol) of tosyl cyanide are stirred in 11 ml of 1,2-dichlorobenzene at 160° C. for 1 h. Subsequently, the reaction mixture is cooled and treated with 10 ml of pentane, and the precipitate is filtered off and dried under vacuum. 11.06 g of product are obtained (99.9% purity, 64.7% yield, log P (pH 2.3)=4.62).

reactant | 5-[2-(4-chlorophenyl)ethyl]-1,3,4-oxathiazol-2-one | 45.1 mmol, 10.90 g | ClC1=CC=C(C=C1)CCC1=NSC(O1)=O | C10H8ClNO2S
reactant | tosyl cyanide | 47.4 mmol, 8.58 g | S(=O)(=O)(C1=CC=C(C)C=C1)C#N | C8H7NO2S
reactant | pentane | 10 ml | CCCCC | C5H12
solvent | 1,2-dichlorobenzene | 11 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-[2-(4-Chlorophenyl)ethyl]-5-[(4-methylphenyl)sulphonyl]-1,2,4-thiadiazole | 11.06 g, 64.7% yield | ClC1=CC=C(C=C1)CCC1=NSC(=N1)S(=O)(=O)C1=CC=C(C=C1)C | C17H15ClN2O2S2
